US04585770
A mixture of 7.6 g of (6RS,trans) 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one, 7.6 ml of N-methyl-4-piperidone, 380 ml of methanol and 7.6 g of sodium cyanoborohydride was stirred at room temperature for 24 hours and after cooling to less than 0° C., 5 ml of concentrated hydrochloric acid were added thereto dropwise. The mixture was stirred at room temperature for 10 minutes and was cooled to 0° C. and adjusted to a pH of 8 by addition of sodium hydroxide. The methanol was evaporated and the residue was taken up in methylene chloride containing 10% methanol. The mixture was filtered and the filtrate was evaporated to dryness. The residue was chromatographed over silica gel and was eluted with an 80-15-5 ethyl acetate-methanol-ammonium hydroxide mixture to obtain 7.3 g of (6RS,trans) 6-(1-methyl-4-piperidinylamino)-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one. The said base was dissolved in 40 ml of ethanol and 20 ml of ethanolic hydrogen chloride were added thereto. The mixture was vacuum filtered to obtain 7 g of the dihydrochloride melting at ≃260° C.

reactant | (6RS,trans) 6-amino-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one | 7.6 g | N[C@@H]1CCN2C3=C([C@H]1O)C=CC=C3NC2=O | C11H13N3O2
reactant | N-methyl-4-piperidone | 7.6 ml | CN1CCC(CC1)=O | C6H11NO
reactant | sodium cyanoborohydride | 7.6 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 380 ml | CO | CH4O
product | (6RS,trans) 6-(1-methyl-4-piperidinylamino)-7-hydroxy-4,5,6,7-tetrahydro-imidazo[4,5,l-j-k][1]-benzazepin-2(1H)-one | 7.3 g | CN1CCC(CC1)N[C@@H]1CCN2C3=C([C@H]1O)C=CC=C3NC2=O | C17H24N4O2
